US04342780
D. 2-Amino-2-fluoromethyl-3-(4-methoxyphenyl)propionitrile
A mixture of 1-fluoro-3-(4-methoxyphenyl)-2-propanone (4.1 g, 0.0225 mol), ammonium chloride (1.5 g) and 28% aqueous ammonia (27 ml) is treated with sodium cyanide (1.4 g), and the mixture is stirred at room temperature overnight under nitrogen. The oil which separates is removed and extracted with diethyl ether, and the ethereal extract is washed with ammonia, dried (MgSO4), and filtered. Evaporation of the ether leaves an oily residue which is washed with pentane by decantation. An NMR analysis of the oily residue (4 g) shows that it consists mainly of the required 2-amino-2-fluoromethyl-3-(4-methoxyphenyl)propionitrile.

reactant | 1-fluoro-3-(4-methoxyphenyl)-2-propanone | 0.0225 mol, 4.1 g | FCC(CC1=CC=C(C=C1)OC)=O | C10H11FO2
reactant | ammonium chloride | 1.5 g | [Cl-].[NH4+]
reactant | ammonia | 27 ml | N | H3N
reactant | sodium cyanide | 1.4 g | [C-]#N.[Na+]
product | 2-Amino-2-fluoromethyl-3-(4-methoxyphenyl)propionitrile | NC(C#N)(CC1=CC=C(C=C1)OC)CF | C11H13FN2O
